US07345038B2
To a solution of 2-chloro-5-(chloromethyl)pyridine (570 mg, 3.52 mmole) in 7 mL of dry acetonitrile is 608 mg (7.04 mmol) of N-methyl-t-butylamine followed by 486 mg (3.52 mmol) of potassium carbonate. The reaction is heated at 80° C. for 12 h. After cooling, the reaction mixture is quenched with 5 mL of water, extracted three-times with methylene chloride, and dried over sodium sulfate. Concentration of the solvent provided an oil which was purified by silica gel chromatography to provide 420 mg (56% yield) of N-methyl-tert-Butyl-(6-chloro-pyridin-3-ylmethyl)-amine. Diagnostic 1H NMR (400 MHz, CDCl3) 1.14 (s, 9H), 2.06 (s, 3H), 3.48 (s, 2H), 7.26 (d, 1H, J=6.2 Hz), 7.68 (d, 1 h, J=6.6 Hz), 8.28 (d, 1H, J=2.5 Hz); MS 213.3 (M+H).

reactant | 2-chloro-5-(chloromethyl)pyridine | 3.52 mmole, 570 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | N-methyl-t-butylamine | 7.04 mmol, 608 mg | CNC(C)(C)C | C5H13N
reactant | potassium carbonate | 3.52 mmol, 486 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | N-methyl-tert-Butyl-(6-chloro-pyridin-3-ylmethyl)-amine | 420 mg, 56% yield | CN(CC=1C=NC(=CC1)Cl)C(C)(C)C | C11H17ClN2
